US06066657
Cyclopropyl-(7-methoxybenzofuran-2-yl)-methanol
To a stirred solution of 7-methoxybenzofuran (2.0 g) in tetrahydrofuran (30 ml) cooled to -60° C. under an atmosphere of nitrogen was added dropwise n-butyllithium (1.6M in hexanes, 8.9 ml). After stirring at -60° C. for 10 minutes, magnesium bromide diethyl etherate (3.8 g) was added in single portion and the reaction mixture stirred at -50° C. for 10 minutes. After cooling to -78° C., cyclopropane carboxaldehyde (1.0 ml) was added in a single portion and the mixture allowed to warm slowly to room temperature and stirred for 1 h. Water (2 ml) was added and the tetrahydrofuran removed in vacuo. The residue was partitioned between ethyl acetate (50 ml) and water (50 ml); the aqueous layer was extracted with ethyl acetate (50 ml); the organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica eluting with 0-5% methanol in dichloromethane afforded the title compound as a yellow gum (1.88 g).

reactant | 7-methoxybenzofuran | 2.0 g | COC1=CC=CC=2C=COC21 | C9H8O2
reactant | n-butyllithium | 1.6M, 8.9 ml | C(CCC)[Li]
reactant | magnesium bromide diethyl etherate | 3.8 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | cyclopropane carboxaldehyde | 1.0 ml | C1(CC1)C=O | C4H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | 2 ml | O | H2O
product | Cyclopropyl-(7-methoxybenzofuran-2-yl)-methanol | 1.88 g | C1(CC1)C(O)C=1OC2=C(C1)C=CC=C2OC | C13H14O3
